US06528510B1
5-Isopropyl-2-nitro-phenylamine
2,2,2-Trifluoro-N-(5-isopropyl-2-nitro-phenyl)-acetamide (prepared in Example OO-1; 9.4 g, 34 mmol) was dissolved in MeOH (30 mL) and treated with 7% aqueous potassium carbonate solution. The reaction mixture was stirred overnight at room temperature. The reaction was diluted with water (30 mL) and extracted with EtOAc (3×50 mL). The organic layer was washed with saturated NaHCO3 solution and brine, dried (MgSO4), and concentrated. The crude product was used further without any purification. MS(APCI): 181 (M+H).

reactant | 2,2,2-Trifluoro-N-(5-isopropyl-2-nitro-phenyl)-acetamide | 34 mmol, 9.4 g | FC(C(=O)NC1=C(C=CC(=C1)C(C)C)[N+](=O)[O-])(F)F | C11H11F3N2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 5-Isopropyl-2-nitro-phenylamine | C(C)(C)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C9H12N2O2
